US09126970B2
Step b): [3′-(12,12-Dimethyl-12H-10-azaindeno[2,1-b]fluoren-10-yl)biphenyl-3-yl]phenylmethanone
15.8 g (47 mmol) of (3′-bromobiphenyl-3-yl)phenylmethanone, 13.36 g (47 mmol) of 10,10-dimethyl-10,12-dihydro-3,12-diazaindeno[2,1-b]fluorene and 29.2 g of Rb2CO3 are suspended in 250 ml of p-xylene. 0.95 g (4.2 mmol) of Pd(OAc)2 and 12.6 ml of a 1 M tri-tert-butylphosphine solution are added to this suspension. The reaction mixture is heated under reflux for 24 h. After cooling, the organic phase is separated off, washed three times with 150 ml of water and subsequently evaporated to dryness. The residue is extracted with hot toluene, recrystallised three times from toluene and finally sublimed in a high vacuum, giving 14.2 g (26.3 mmol), corresponding to 56% of theory. The purity is 99.9%.

reactant | (3′-bromobiphenyl-3-yl)phenylmethanone | 47 mmol, 15.8 g | BrC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)C1=CC=CC=C1 | C19H13BrO
reactant | 10,10-dimethyl-10,12-dihydro-3,12-diazaindeno[2,1-b]fluorene | 47 mmol, 13.36 g | CC1(C2=CC=CC=C2C=2C=C3C(=CC12)NC1=CC=NC=C13)C | C20H16N2
reactant | tri-tert-butylphosphine | 1 M | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | p-xylene | 250 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | Pd(OAc)2 | 4.2 mmol, 0.95 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | [3′-(12,12-Dimethyl-12H-10-azaindeno[2,1-b]fluoren-10-yl)biphenyl-3-yl]phenylmethanone | CC1(C2=CC=CC=C2C=2C1=CC=1N(C3=CC=CC=C3C1C2)C=2C=C(C=CC2)C2=CC(=CC=C2)C(=O)C2=CC=CC=C2)C | C40H29NO
